US06506758B2
Description 10: 2-Methoxy-4-cyanobenzoyl chloride
2-Methoxy-4-cyanobenzoic acid (Tetrahedron Letters, 1986, 27(49), 5997-6000) (1 g, 5.6 mmol) was dissolved in CH2Cl2 (20 ml). Oxalyl chloride (1.5 ml, 8.2 mmol) was rapidly introduced into the solution and a drop of DMF was added. A vigorous reaction took place with the abundant evolution of gaseous products. The solution was stirred for 1 h then allowed to stand over night. Solvent was removed using a rotary evaporator to leave 1.1 g of an off white solid (5.6 mmol, yield 99%) that was used without further purification.

reactant | 2-Methoxy-4-cyanobenzoic acid | 5.6 mmol, 1 g | COC1=C(C(=O)O)C=CC(=C1)C#N | C9H7NO3
reactant | Oxalyl chloride | 8.2 mmol, 1.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Methoxy-4-cyanobenzoyl chloride | 5.6 mmol, yield 99% | COC1=C(C(=O)Cl)C=CC(=C1)C#N | C9H6ClNO2
